Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
Mr. ___ is a ___ male with history of HTN, HL and 
iliac artery dissection who presents with abdominal discomfort, 
___ and was found to have gastric wall emphysema on CT A/P. 

Patient presented to PCP with ___ and abdominal discomfort and 
was initially told he had viral gastroenteritis but after 
undergoing CT A/P which showed gas in gastric wall and was thus 
referred to the ED for eval and possible admission. He recently 
took antibiotics in the setting of recent dental work / tooth 
extraction and has had symptoms of abdominal discomfort, nausea 
and vomiting since, with up to 12 episodes of emesis in 1 day. 
he denies frank abdominal pain but does endorse abdominal 
discomfort. He has noted subjective hot/cold sensation but no 
frank fevers. 

In the ED: 
VS: Tmax 99.3, BP 108/66->134/79, P 60's, RR ___, 99-100% on 
RA
PE: abdomen soft and nontender
Labs: lactate 3.1 --> 1.4
Imaging: none here
Interventions: 10mg po reglan, 4mgIV Zofran, 2L NS, 40mg IV PPI
Consults: Surgery: Completed 22:05
 >Patient seen and examined with Dr. ___. Needs admission to 
medicine for uncontrolled emesis. No need for surgical 
intervention. Recommend GI eval. ___ ___ 

Course:
 >Patient threw up what he describes as large volume brown 
emesis x2 in ED. No hemodynamic changes.
 >Spoke with surgery, and would recommend admission to medicine 
for ongoing vomiting workup with likely GI involvement (patient 
has had GI involved in past), and continued anti-emetic and 
hydration. They will follow closely.
 >air in gastric wall; admit to medicine for observation

On arrival to the floor patient denied pain, f/c. He reports he 
is not on any medications. He denies history of abdominal 
surgeries. 

 
Past Medical History:
Hypertension
Hyperlipidemia
Iliac Artery Dissection
Allergic Rhinitis
 
Social History:
___
Family History:
___ and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, minimally tender to palpation.  Bowel sounds 
present.
MSK: Neck supple, moves all extremities, strength grossly 
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all 
limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 07:20AM BLOOD WBC-11.8* RBC-4.26* Hgb-13.1* Hct-39.8* 
MCV-93 MCH-30.8 MCHC-32.9 RDW-13.4 RDWSD-45.6 Plt ___
___ 07:20AM BLOOD Glucose-107* UreaN-17 Creat-1.1 Na-141 
K-4.2 Cl-103 HCO3-27 AnGap-11
___ 07:20AM BLOOD ALT-13 AST-29 LD(LDH)-224 AlkPhos-68 
Amylase-83 TotBili-0.6

EGD: Hiatal hernia in GJ junction, normal mucosa in antrum
 
Brief Hospital Course:
___ male with history of HTN, HL and iliac artery 
dissection who presents with abdominal discomfort, ___/

#Nausea / Vomiting #Abdominal discomfort
Initially there was concern for gastric wall emphysema based on 
outside hospital imaging. ACS and GI were consulted. EGD 
revealed normal mucosa. After reviewing the images with our 
radiologists, the images are in fact less suggestive of 
emphysema. The etiology of his nausea/vomiting is consistent 
with viral gastroenteritis or a side effect from Bactrim. His 
abdominal exam remained benign, and his lactate normalized after 
2nd liter of IV fluid. He was tolerating oral intake without 
difficulty. His tooth pain had improved and his dentists had 
told him to stop antibiotics, so no further antibiotics were 
prescribed. Patient provided with a prescription for Zofran as 
needed

Mr. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Every 8 hours as 
needed Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with vomiting. We think this was 
either a medication side effect or a viral illness. The 
procedure you had where a camera looked at your stomach (EGD) 
did not find any abnormalities.

Instructions:
- Take Zofran up to every 8 hours as needed for nausea
 
Followup Instructions:
___